US03966783
7,7-Dimethyl-6-oxooctanoylchloride (assumed to be 0.1 mole from the above preparation) in methylene chloride (200 ml) and ferrocene (18.6g; 0.1 mole) were stirred at -20°C and aluminium chloride (13.4g; 0.1 mole) was added over 1 hr. After stirring for a further 2 hrs at -20°C, the reaction had almost gone to completion. Water was added and the organic layer separated. The aqueous layer was extracted with methylene chloride and the combined organic layers were washed with saturated sodium bicarbonate and water, and dried (sodium sulphate) to yield a brown oil which crystallised on addition of petroleum ether and was recrystallised from petroleum ether: cyclohexane (750 ml of 1:1) to yield 7,7-dimethyl-6-oxo-octanoylferrocene as an orange-brown solid. mp 90°-2° (65.3%).

reactant | 7,7-Dimethyl-6-oxooctanoylchloride | CC(C(CCCCC(=O)Cl)=O)(C)C | C10H17ClO2
reactant | ferrocene | 0.1 mole, 18.6g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | aluminium chloride | 0.1 mole, 13.4g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 7,7-dimethyl-6-oxo-octanoylferrocene | CC(C(CCCCC(=O)[C-]1C=CC=C1)=O)(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C15H21O2.C5H5.Fe/c1-15(2,3)14(17)11-7-6-10-13(16)12-8-4-5-9-12;1-2-4-5-3-1;/h4-5,8-9H,6-7,10-11H2,1-3H3;1-5H;/q2*-1;+2
